US08791100B2
1-{2-Chloro-5-[(S)-1-(4-chloro-3-methyl-phenyl)-2,2,2-trifluoro-ethylamino]-benzyl}-pyrrolidine-3-carboxylic acid
The title compound was prepared according to Scheme 4 following a procedure analogous to Example 61 using pyrrolidine-3-carboxylic acid ethyl ester in step 1 and (5)-1-(4-chloro-3-methyl-phenyl)-2,2,2-trifluoro-ethylamine hydrochloride in step 2, followed by a LiOH-mediated ester cleavage.

reactant | pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1CNCC1 | C7H13NO2
reactant | (5)-1-(4-chloro-3-methyl-phenyl)-2,2,2-trifluoro-ethylamine hydrochloride | Cl.ClC1=C(C=C(C=C1)[C@@H](C(F)(F)F)N)C
reactant | LiOH | [Li+].[OH-]
product | 1-{2-Chloro-5-[(S)-1-(4-chloro-3-methyl-phenyl)-2,2,2-trifluoro-ethylamino]-benzyl}-pyrrolidine-3-carboxylic acid | ClC1=C(CN2CC(CC2)C(=O)O)C=C(C=C1)N[C@H](C(F)(F)F)C1=CC(=C(C=C1)Cl)C | C21H21Cl2F3N2O2
